US04624699
In the same manner as in Example 4 but using 4-chloro-2-fluoro-5-nitrophenylhydrazine (4 g), 2-acetylcyclohexanone (2.8 g), a catalytic amount of acetic acid and xylene (10 ml), there was produced 2.3 g of 2-(4-chloro-2-fluoro-5-nitrophenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole. m.p., 143°-144° C.

reactant | 4-chloro-2-fluoro-5-nitrophenylhydrazine | 4 g | ClC1=CC(=C(C=C1[N+](=O)[O-])NN)F | C6H5ClFN3O2
reactant | 2-acetylcyclohexanone | 2.8 g | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-chloro-2-fluoro-5-nitrophenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole | 2.3 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1N=C2CCCCC2=C1C)F | C14H13ClFN3O2
